US09359352B2
Synthesis of 2-chloro-7-(piperazin-1-yl)-1,5-naphthyridine (D-19)
Acetyl chloride (4.3 mL, 60.5 mmol) was added to MeOH (11 mL) at 0° C., the resulting solution was stirred at 0° C. for 30 min. To this solution, tert-butyl 4-(6-chloro-1,5-naphthyridin-3-yl)piperazine-1-carboxylate (D-18) (207 mg, 0.59 mmol, 1.0 eq) was added, and the mixture was stirred at RT for 2 h. The reaction was complete based on TLC analysis. The mixture was concentrated in vacuo to afford the desired product 2-chloro-7-(piperazin-1-yl)-1,5-naphthyridine (D-19), which was used for next reaction without further purification. 1H NMR (300 MHz, DMSO-d6) δ: 8.99 (d, J=2.7 Hz, 1H), 8.28 (d, J=8.7 Hz, 1H), 7.59 (d, J=2.7 Hz, 1H), 7.52 (d, J=8.7 Hz, 1H), 3.68 (m, 4H), 3.22 (m, 4H); ESI-MS m/z: 249.06[M+H]+.

reactant | Acetyl chloride | 60.5 mmol, 4.3 mL | C(C)(=O)Cl | C2H3ClO
reactant | tert-butyl 4-(6-chloro-1,5-naphthyridin-3-yl)piperazine-1-carboxylate | 0.59 mmol, 207 mg, 1.0 eq | ClC=1N=C2C=C(C=NC2=CC1)N1CCN(CC1)C(=O)OC(C)(C)C | C17H21ClN4O2
solvent | MeOH | 11 mL | CO | CH4O
product | 2-chloro-7-(piperazin-1-yl)-1,5-naphthyridine | ClC1=NC2=CC(=CN=C2C=C1)N1CCNCC1 | C12H13ClN4
